* Z:\mnt\design.r\spice\examples\1050.asc
V1 IN 0 0
V2 -V 0 -5
R2 N001 IN 10K
XU1 0 N001 +V -V OUT LTC1050
C1 OUT N001 220p
Q1 N001 0 N002 0 MAT-02
Q2 N003 N004 N002 0 MAT-02
R1 N004 OUT 15.7K
R3 N007 N004 2Meg
R4 N004 0 1K
D1 N007 N005 1N4148
XU2 0 N003 +V -V N005 LTC1050
C2 N003 N005 22p
R5 N006 N003 2.5Meg
R6 +V N006 25K
R7 N002 N005 3K
V3 +V 0 5
B1 Exact 0 V=-Log10(V(in)/10m)
XU3 N006 0 NC_01 LT1009
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.dc dec V1 10u 10 10
* 6 Decade Log Amplifier
.lib LTC.lib
.lib LTC3.lib
.backanno
.end
